US07923456B2
Step 2: 6-Chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester
To a suspension of 6-chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid (7.6 g, 21.3 mmol) in dichloromethane (100 mL) and DMF (1 mL) was added oxalyl chloride (9.1 mL, 106.4 mmol) dropwise over 20 minutes. The reaction mixture was stirred at reflux for 18 hours and then concentrated in vacuo and the residue azeotroped with toluene. The resultant residue was taken up in cold (0° C.) methanol (100 mL). The resultant solution was heated at reflux for 1 hour, then cooled to room temperature and filtered. The precipitate was washed with cold methanol and dried under vacuum at 45° C. to give the title compound as a yellow solid (7.3 g, 92%). LCMS (method B): RT=5.38 min, [M+H]+=371.

reactant | 6-chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid | 21.3 mmol, 7.6 g | ClC1=NC(=C(C(=O)O)C=C1F)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C15H15ClF2N2O2Si
reactant | oxalyl chloride | 106.4 mmol, 9.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 7.3 g, 92% | COC(C1=C(N=C(C(=C1)F)Cl)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C16H17ClF2N2O2Si
